US05300477
To a deoxygenated solution of 1.01 g (3.28 mmol) of 5-ethyl-2-phenyl-3-propargyl-6-trifluoromethyl-4(3H)-pyrimidinone and 0.61 g (3.96 mmol) of vinyl iodide in 25 mL of triethylamine was added a mixture of 60 mg of copper (I) iodide and 60 mg of bis(triphenylphosphine) palladium (II) chloride. The mixture was stirred at room temperature for 22 h and rotovapped to remove the bulk of the triethylamine. The residue was taken up in 150 mL of ethyl acetate, washed with 75 mL of 5% aqueous hydrochloric acid, 75 mL of saturated aqueous sodium bicarbonate and 75 mL of brine, and dried. Removal of the solvent left 1.51 g of a brown tar. Flash chromatography on a column of 30 g of silica gel eluting with 20, 40, 60 and 60% ether in hexanes afforded 0.31 g of crude 5-ethyl-3-(pent-2-yn-4-en-1-yl)-2-phenyl-6-trifluoromethyl-4(3 H)-pyrimidinone. A second chromatography yielded 0.25 g (23%) of pure 5-ethyl-3-(pent-2-yn-4-en-1-yl)-2-phenyl-6-trifluoromethyl-4(3H)-pyrimidinone (compound 111) as a solid, mp 104°-106° C. 1H-NMR (CDCl3) d 1.25(3H,t), 2.8(2H,q), 4.75(2H,s), 5.5-5.9(3H,m), 7.55(3H,m), 7.7(2H,m).

reactant | 5-ethyl-2-phenyl-3-propargyl-6-trifluoromethyl-4(3H)-pyrimidinone | 3.28 mmol, 1.01 g | C(C)C=1C(N(C(=NC1C(F)(F)F)C1=CC=CC=C1)CC#C)=O | C16H13F3N2O
reactant | vinyl iodide | 3.96 mmol, 0.61 g | C(=C)I | C2H3I
solvent | triethylamine | 25 mL | C(C)N(CC)CC | C6H15N
catalyst | copper (I) iodide | 60 mg | [Cu]I
catalyst | bis(triphenylphosphine) palladium (II) chloride | 60 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-ethyl-3-(pent-2-yn-4-en-1-yl)-2-phenyl-6-trifluoromethyl-4(3 H)-pyrimidinone | 0.31 g | C(C)C=1C(N(C(=NC1C(F)(F)F)C1=CC=CC=C1)CC#CC=C)=O | C18H15F3N2O
